US04581168
1. H-Gln-Leu-Ser-Ala-OCH3
10.3 g (18.8 mM) of Boc-Gln-Leu-Ser-Ala-OCH3 are stirred for 35 mins. in 100 ml of dichloromethane containing 100 ml of TFA. The reaction medium is concentrated in vacuo to about 50 ml and poured over 300 ml of ether. The precipitate is drained, washed with ether and dried in vacuo.

reactant | Boc-Gln-Leu-Ser-Ala-OCH3 | 18.8 mM, 10.3 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C23H41N5O9
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | H-Gln-Leu-Ser-Ala-OCH3 | N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC | C18H33N5O7
